US09212187B2
(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl)-acetonitrile
To a solution of 7-chloromethyl-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (1.11 g) in DMF(15 ml) was added sodium cyanide(0.59 g) at room temperature, the mixture was stirred overnight. Water was added to the reaction mixture, followed by extraction using ethyl acetate. The organic layer was dried with magnesium sulfate, and was condensed under reduced pressure to give the title compound(0.84 g) as a pale yellow oil.

reactant | 7-chloromethyl-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 1.11 g | ClCC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C15H19ClN2O2
reactant | sodium cyanide | 0.59 g | [C-]#N.[Na+]
reactant | Water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl)-acetonitrile | 0.84 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CC#N | C16H19N3O2
